US07893263B2
A mixture of corosolic acid (2.0 g, 4.34 mmol), iodomethane (1 mL, 16 mmol), potassium carbonate (4.5 g, 32.6 mmol) and acetone (60 mL) was stirred at rt for 16 h. After completion of the reaction, the solids were filtered off and the solvent was evaporated under reduced pressure. The residue was chromatographed over silica gel column using chloroform-methanol (10%) as eluent to furnish methyl corosolate (1.7 g, 83%), which was recrystallised from chloroform-hexane, m.p. 208-210° C.; IR (KBr): 3432, 2946, 2872, 1728, 1455, 1230, 1197, 1049 cm−1; 1H NMR (400 MHz, CDCl3) δ 0.75 (3H, s, CH3), 0.83 (3H, s, CH3), 0.85 (3H, d, J=6.5 Hz, CH3), 0.94 (3H, d, J=5.7 Hz, CH3), 0.99 (3H, s, CH3), 1.03 (3H, s, CH3), 1.08 (3H, s, CH3), 2.23 (1H, d, J=11.0 Hz, H-18), 3.0 (1H, d, J=8.4 Hz, H-3), 3.60 (3H, s, —COOCH3), 3.62-3.71 (1H, m, H-2), 5.25 (1H, t, J=3.4 Hz, H-12); LCMS (negative ion mode): m/z 485 (M−H)−.

reactant | corosolic acid | 4.34 mmol, 2.0 g | C[C@@H]1CC[C@@]2(CC[C@@]3(C(=CC[C@H]4[C@]3(CC[C@@H]5[C@@]4(C[C@H]([C@@H](C5(C)C)O)O)C)C)[C@@H]2[C@H]1C)C)C(=O)O | C30H48O4
reactant | iodomethane | 16 mmol, 1 mL | IC | CH3I
reactant | potassium carbonate | 32.6 mmol, 4.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 60 mL | CC(=O)C | C3H6O
product | methyl corosolate | 1.7 g, 83% | C[C@@H]1CC[C@@]2(CC[C@@]3(C(=CC[C@H]4[C@]3(CC[C@@H]5[C@@]4(C[C@H]([C@@H](C5(C)C)O)O)C)C)[C@@H]2[C@H]1C)C)C(=O)OC | C31H50O4
